US04035512
To 300 ml. of dimethylformamide are added 52 g. of 5-hydroxy-6-methoxymethyl-3,4-dihydro-1(2H)-naphthalenone, 32 g. of benzyl chloride and 35 g. of anhydrous potassium carbonate, and the mixture is stirred at 100° C for 4 hours. The reaction mixture is poured in 1 liter of water and the liberated oily layer is separated. To this layer is added 300 ml. of ethyl acetate and, after washing with water, the solution is dried over anhydrous sodium sulfate. The solvent is then distilled off under reduced pressure and the residue is recrystallized from hexane. The procedure provides 6-benzyloxy-5-methoxymethyl-3,4-dihydro-1(2H)-naphthalenone as colorless needles. Yield 58 g.; melting point; 55°-56° C.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 5-hydroxy-6-methoxymethyl-3,4-dihydro-1(2H)-naphthalenone | OC1=C2CCCC(C2=CC=C1COC)=O | C12H14O3
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1 liter | O | H2O
product | 6-benzyloxy-5-methoxymethyl-3,4-dihydro-1(2H)-naphthalenone | C(C1=CC=CC=C1)OC=1C(=C2CCCC(C2=CC1)=O)COC | C19H20O3
